US08012998B2
6-Dimethylsulfamoyl-nicotinic acid
1st step: To a stirred solution of 6-sulfamoyl-nicotinic acid methyl ester (250 mg, 1.15 mmol) in DMF (10 mL) at 0° C. was added NaH (53 mg, 55%, 1.20 mmol). After 10 minutes, MeI (0.079 mL, 1.26 mL) was added. Stirring was continued for one hour before the reaction was quenched upon addition of H2O. The product was extracted with EtOAc, the combined organic layers were dried over Na2SO4 and concentrated under vacuo. Column chromatography (SiO2, EtOAc/H, 1/2) afforded 51 mg of the title compound (19%) as a white solid.

reactant | 6-sulfamoyl-nicotinic acid methyl ester | 1.15 mmol, 250 mg | COC(C1=CN=C(C=C1)S(N)(=O)=O)=O | C7H8N2O4S
reactant | NaH | 1.20 mmol, 53 mg | [H-].[Na+]
reactant | MeI | 0.079 mL | CI | CH3I
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 6-Dimethylsulfamoyl-nicotinic acid | 51 mg, 19% | CN(S(=O)(=O)C1=NC=C(C(=O)O)C=C1)C | C8H10N2O4S
